US09446394B2
But-3-en-1-yl dec-9-enoate (Precursor to Yuzu Lactone)
Following the aforementioned procedure, diene was prepared from dec-9-enoic acid and but-3-en-1-ol. The resulting yellow oil was purified by silica gel chromatography (30:1 hexanes: diethyl ether) to afford the desired product as a colorless oil. IR (neat): 3077 (m), 2927 (s), 2855 (s), 1737 (s), 1641 (m), 1458 (m), 1418 (m), 1353 (m), 1243 (s), 1170 (s), 1115 (m), 992 (s), 912 (s), 725 (m), 635 (m); 1H NMR (400 MHz, CDCl3): δ 5.86-5.74 (2H, m), 5.14-4.91 (4H, m), 4.12 (2H, t, J=6.8 Hz), 2.38 (2H, ddt, J=13.6, 6.8, 1.4 Hz), 2.29 (2H, t, J=7.6 Hz), 2.06-2.01 (2H, m), 1.63-1.59 (2H, m), 1.39-1.26 (8H, m); 13C NMR (100 MHz, CDCl3): δ 174.0, 139.3, 134.2, 117.3, 114.3, 63.4, 34.5, 33.9, 33.3, 29.2, 29.2, 29.1, 29.0, 25.1; HRMS (ESI+) [M+H]+ calcd for C14H25O2: 225.1855. found: 225.1855.

reactant | dec-9-enoic acid | C(CCCCCCCC=C)(=O)O | C10H18O2
reactant | but-3-en-1-ol | C(CC=C)O | C4H8O
product | But-3-en-1-yl dec-9-enoate | C(CCCCCCCC=C)(=O)OCCC=C | C14H24O2
